US07498350B2
(5R)-3-(3-Fluoro-4-(6-(2-methyl-2H-tetrazol-5-yl)pyrid-3-yl)phenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one
A mixture of (5R)-3-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (300 mg, 0.71 mmol), 5-bromo-2-(2-methyl-2H-tetrazol-5-yl)pyridine (170 mg, 0.71 mmol), and sodium carbonate (226 mg, 2.13 mmol) in N,N-dimethylformamide:water (5 mL, 10:1) was degassed, flushed with nitrogen, and treated with tetrakis(triphenylphosphine)palladium (0) (82 mg, 10 mol %). The reaction mixture was heated at 70° C. for 3 hours, cooled to room temperature, and evaporated to dryness under reduced pressure. The involatile residue was purified by chromatography on silica gel [elution with dichloromethane:N,N-dimethylformamide (25:1 to 20:1)]. The product fraction was concentrated to a small volume (˜3 mL) and treated with dichloromethane (5 mL) and hexanes (15 mL) to precipitate the product as a colorless amorphous solid (229 mg, 71%).

reactant | (5R)-3-(3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 0.71 mmol, 300 mg | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1C(O[C@H](C1)CN1N=NC(=C1)Cl)=O | C18H21BClFN4O4
reactant | 5-bromo-2-(2-methyl-2H-tetrazol-5-yl)pyridine | 0.71 mmol, 170 mg | BrC=1C=CC(=NC1)C=1N=NN(N1)C | C7H6BrN5
reactant | sodium carbonate | 2.13 mmol, 226 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (5R)-3-(3-Fluoro-4-(6-(2-methyl-2H-tetrazol-5-yl)pyrid-3-yl)phenyl)-5-(4-chloro-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | FC=1C=C(C=CC1C=1C=NC(=CC1)C=1N=NN(N1)C)N1C(O[C@H](C1)CN1N=NC(=C1)Cl)=O | C19H15ClFN9O2
